### PR TITLE
[Merged by Bors] - feat: IsBoundedUnder lemmas for addition and Finset.sum

### PR DESCRIPTION
**Pull request by kkytola**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/LiminfLimsup.lean [hunk 1]
```diff
@@ -294,6 +294,66 @@ theorem IsCobounded.mono (h : f ≤ g) : f.IsCobounded r → g.IsCobounded r
...
+  simp only [eventually_map, Pi.add_apply] at hU hV ⊢
+  filter_upwards [hU, hV] with a hu hv using add_le_add hu hv
+
+lemma isBoundedUnder_sum {κ : Type*} [DecidableEq κ] [AddCommMonoid R] {r : R → R → Prop}
+    (hr : ∀ (v₁ v₂ : α → R), f.IsBoundedUnder r v₁ → f.IsBoundedUnder r v₂
+      → f.IsBoundedUnder r (v₁ + v₂)) (hr₀ : r 0 0)
+    {u : κ → α → R} (s : Finset κ) :
+    (∀ k ∈ s, f.IsBoundedUnder r (u k)) →
+      f.IsBoundedUnder r (∑ k ∈ s, u k) := by
+  apply Finset.induction_on (p := fun s ↦
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/LiminfLimsup.lean:330]: Have you tried this with `induction`?

**Review by Ruben-VandeVelde — APPROVED** [review]

File: Mathlib/Order/LiminfLimsup.lean (hunk 1 above)
Comment (kkytola) [reply Mathlib/Order/LiminfLimsup.lean:330]: Thanks!

`induction` did allow me to specify `Finset.induction_on` as the induction principle, but I could not get it to name the variables and the induction hypothesis (which is pretty annoying, since the induction hypothesis is surely needed in the proof). However, `induction'` just worked. This is definitely cleaner!

File: Mathlib/Order/LiminfLimsup.lean [hunk 2]
```diff
@@ -294,6 +294,64 @@ theorem IsCobounded.mono (h : f ≤ g) : f.IsCobounded r → g.IsCobounded r
...
+      → f.IsBoundedUnder r (v₁ + v₂)) (hr₀ : r 0 0)
+    {u : κ → α → R} (s : Finset κ) :
+    (∀ k ∈ s, f.IsBoundedUnder r (u k)) →
+      f.IsBoundedUnder r (∑ k ∈ s, u k) := by
+  induction' s using Finset.induction_on with k₀ s k₀_notin_s ih
+  · simp only [Finset.not_mem_empty, false_implies, implies_true, Finset.sum_empty, true_implies]
+    refine ⟨0, by simp_all only [eventually_map, Pi.zero_apply, eventually_true]⟩
+  · simp only [Finset.mem_insert, forall_eq_or_imp, and_imp] at *
+    intro bdd_k₀ bdd_rest
+    simpa only [Finset.sum_insert k₀_notin_s] using hr _ _ bdd_k₀ (ih bdd_rest)
```
Comment (dupuisf) [inline Mathlib/Order/LiminfLimsup.lean:335]:
```suggestion
  induction s using Finset.induction_on
  case empty =>
    simp only [Finset.not_mem_empty, false_implies, implies_true, Finset.sum_empty, true_implies]
    refine ⟨0, by simp_all only [eventually_map, Pi.zero_apply, eventually_true]⟩
  case insert k₀ s k₀_notin_s ih =>
    simp only [Finset.mem_insert, forall_eq_or_imp, and_imp] at *
    intro bdd_k₀ bdd_rest
    simpa only [Finset.sum_insert k₀_notin_s] using hr _ _ bdd_k₀ (ih bdd_rest)
```

File: Mathlib/Order/LiminfLimsup.lean [hunk 3]
```diff
@@ -294,6 +294,66 @@ theorem IsCobounded.mono (h : f ≤ g) : f.IsCobounded r → g.IsCobounded r
...
 
+section add_and_sum
+
+open Filter BigOperators Set
+
+variable {α : Type*} {f : Filter α} [NeBot f]
+variable {R : Type*} [Preorder R]
+
+lemma isBoundedUnder_ge_add [Add R]
+    [CovariantClass R R (fun a b ↦ a + b) (· ≤ ·)] [CovariantClass R R (fun a b ↦ b + a) (· ≤ ·)]
```
Comment (j-loreaux) [inline Mathlib/Order/LiminfLimsup.lean:305]: Why do we need the `ge` version?

File: Mathlib/Order/LiminfLimsup.lean [hunk 4]
```diff
@@ -294,6 +294,66 @@ theorem IsCobounded.mono (h : f ≤ g) : f.IsCobounded r → g.IsCobounded r
...
+    simpa only [Finset.sum_insert k₀_notin_s] using hr _ _ bdd_k₀ (ih bdd_rest)
+
+lemma isBoundedUnder_le_sum {κ : Type*} [DecidableEq κ] [AddCommMonoid R]
+    [CovariantClass R R (fun a b ↦ a + b) (· ≤ ·)] [CovariantClass R R (fun a b ↦ b + a) (· ≤ ·)]
+    {u : κ → α → R} (s : Finset κ) :
+    (∀ k ∈ s, f.IsBoundedUnder (· ≤ ·) (u k)) →
+      f.IsBoundedUnder (· ≤ ·) (∑ k ∈ s, u k) := by
+  apply isBoundedUnder_sum (fun _ _ ↦ isBoundedUnder_le_add) le_rfl
+
+lemma isBoundedUnder_ge_sum {κ : Type*} [DecidableEq κ] [AddCommMonoid R]
```
Comment (j-loreaux) [inline Mathlib/Order/LiminfLimsup.lean:346]: ditto

File: Mathlib/Order/LiminfLimsup.lean (hunk 3 above)
Comment (kkytola) [reply Mathlib/Order/LiminfLimsup.lean:305]: To prove boundedness from below of sums assuming the boundedness from below of the terms of the sums. (The `le` versions achieve the same for boundedness from _above_).

**Comment by j-loreaux** [comment]
Great, thanks! 

bors merge
